US04210653
(c) 4-(2,3-epoxy-1-propoxy)-phenol
To an ice-cooled solution of 55 g. (0.5 mole) of hydroquinone and 46 g. (0.5 mole) of epichlorohydrin in 900 ml. of water was added an ice-cooled solution of 20 g. (0.5 mole) of sodium hydroxide in 900 ml. of water. The mixture was allowed to stand at 0° C. for 3 days. After washing with ether, the solution was added to 72 g. of sodium hydroxide in 4 l. of water and stored at 10° C. for 3 hours. The solution was saturated with ammonium carbonate and extracted with chloroform. After drying (Na2SO4) and concentrating the chloroform, the residual oil was predominantly 4-(2,3-epoxy-1-propoxy)-phenol (23%) which was used in later step without further purification.

reactant | hydroquinone | 0.5 mole | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | epichlorohydrin | 0.5 mole | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 0.5 mole | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(2,3-epoxy-1-propoxy)-phenol | O1C(COC2=CC=C(C=C2)O)C1 | C9H10O3
